US06369146B1
Di(4-methyl-2-pentyl)-DL-malate was prepared using a procedure similar to that in Example 8. To the reaction flask, DL-malic acid (90.76 g), 4-methyl-2-pentanol (350 mL), 1,4-dioxane (200 mL) and p-toluenesulfonic acid (15.2 g) were added. The mixture was placed under nitrogen and heated to reflux. At 105° C., one phase started to collect in the Dean-Stark trap. After 2 hr, the temperature was increased to 110° C. After 1 hr 10 min, the temperature was increased to 112° C. and held until no more liquid collected in the trap. The reaction product was neutralized with saturated sodium bicarbonate, diluted with diethyl ether, washed three times with saturated sodium bicarbonate, once with water and dried over magnesium sulfate. The diethyl ether was removed via rotary evaporation. Di(4-methyl-2-pentyl)-DL-malate was obtained as a low viscosity, light yellow, slightly hazy liquid with no detectable odor (166.8 g, 81.5% yield) after removing residual 4-methyl-2-pentanol via vacuum distillation.

reactant | DL-malic acid | 90.76 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | 4-methyl-2-pentanol | 350 mL | CC(CC(C)O)C | C6H14O
reactant | p-toluenesulfonic acid | 15.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | Di(4-methyl-2-pentyl)-DL-malate | CC(CC(C)OC(C(O)CC(=O)OC(C)CC(C)C)=O)C | C16H30O5
